US08242313B2
Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate
Methyl 1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylate (26.7 g, 0.1 mol) was dissolved in 150 ml of CH2Cl2 and the solution was cooled to 5° C. SOCl2 (0.12 mol) in 30 ml of CH2Cl2 was slowly added dropwise at this temperature. The mixture was stirred at 40° C. for a further 4 h and concentrated under reduced pressure. The product can be used further without purification.

reactant | Methyl 1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylate | 0.1 mol, 26.7 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)CO | C11H10ClN3O3
reactant | SOCl2 | 0.12 mol | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | ClCC1=NN(C(=C1)C(=O)OC)C1=NC=CC=C1Cl | C11H9Cl2N3O2
